US06716851B2
4-(4-Methoxyanilino)-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine
A mixture of 4-chloro-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine (100 mg, 0.402 mmol), p-anisidine (50 mg, 0.402 mmol), water (5 ml) and 2N HCl (300 μl) was refluxed overnight. The resulting yellow solid was collected by filtration, washed with water and then dried under vacuum to give the title compound (55 mg, 41%). 1H NMR (CDCl3): 8.28 (d, J=8.7 Hz, 2H), 7.43-7.35 (m, 4H), 6.96 (d, J=9.0 Hz, 2H), 6.83 (s, 1H), 4.64 (s, 2H), 3.85 (s, 3H), 3.45 (s, 3H), 2.44 (s, 3H).

reactant | 4-chloro-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine | 0.402 mmol, 100 mg | ClC1=NC(=NC(=C1)COC)C1=CC(=CC=C1)C | C13H13ClN2O
reactant | p-anisidine | 0.402 mmol, 50 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | HCl | 2N, 300 μl | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 4-(4-Methoxyanilino)-6-(methoxymethyl)-2-(3-methylphenyl)pyrimidine | 55 mg, 41% | COC1=CC=C(NC2=NC(=NC(=C2)COC)C2=CC(=CC=C2)C)C=C1 | C20H21N3O2
